US07541372B2
5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-1H-indole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (500 mg, 2.30 mmol) was converted using indole-5-carboxylic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 430 mg, 55%) which was obtained as a colorless liquid. MS: m/e=343.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 2.30 mmol, 500 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | indole-5-carboxylic acid | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
product | 5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-1H-indole | 430 mg, 55% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C=1C=C2C=CNC2=CC1 | C20H14N4O2
